US07338959B2
5-(4-{[2-(4-Methoxy-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-2-methyl-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (82 mg, 0.20 mmol) and 5-amino-2-methyl-benzenesulfonamide (37 mg, 0.20 mmol) as a white solid (89 mg, 75%). 1H NMR (300 MHz, d6-DMSO+NaHCO3). δ 10.25 (br s, 2H), 9.50 (br s, 1H), 8.46 (s, 1H), 7.88 (d, J=6.6 Hz, 1H), 7.60-7.67 (m, 2H), 7.41-7.46 (m, 3H), 7.23-7.32 (m, 4H), 6.93 (d. J=8.7 Hz, 2H), 5.78 (d, J=6.3 Hz, 1H), 6.68 (d, J=5.7 Hz, 2H), 3.74 (s, 3H), 3.71 (s, 3H), 3.51 (s, 3H), 2.53 (s, 3H). MS (ESI) m/z=559 [M+H]+.

reactant | N5-(2-chloro-pyrimidin-4-yl)-N2-(4-methoxy-benzyl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.20 mmol, 82 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCC2=CC=C(C=C2)OC)C)C=C1)C | C21H21ClN6O
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.20 mmol, 37 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | 5-(4-{[2-(4-Methoxy-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-2-methyl-benzenesulfonamide hydrochloride | Cl.COC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC=3C=CC(=C(C3)S(=O)(=O)N)C)C)C=C1 | InChI=1S/C28H30N8O3S.ClH/c1-18-5-8-20(15-25(18)40(29,37)38)32-27-30-14-13-26(34-27)35(2)21-9-12-24-23(16-21)33-28(36(24)3)31-17-19-6-10-22(39-4)11-7-19;/h5-16H,17H2,1-4H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
